US08466284B2
4-Fluorobenzonitrile (7.0 g, 58 mmol) and 2-methylpropane-1,2-diamine (14 g, 160 mmol) were heated in a sealed vial in a microwave reactor (Biotage) at 180° C. for 25 minutes in two batches. Each batch was dissolved in methanol (50 mL) and then concentrated with silica to dryness. Flash chromatography on silica of each batch with neat acetonitrile and 2% triethylamine in acetonitrile as eluents gave 4-(2-amino-2-methylpropylamino)benzonitrile (9.58 g, 88% combined yield) as a white solid.

reactant | 4-Fluorobenzonitrile | 58 mmol, 7.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2-methylpropane-1,2-diamine | 160 mmol, 14 g | CC(CN)(C)N | C4H12N2
solvent | methanol | 50 mL | CO | CH4O
product | 4-(2-amino-2-methylpropylamino)benzonitrile | 9.58 g, 88% | NC(CNC1=CC=C(C#N)C=C1)(C)C | C11H15N3
